US07723367B2
N-(cyclohexylmethyl)-1-(2,3-dichlorophenyl)-1H-tetraazol-5-amine
To a solution of 2,3 dichlorophenylisocyanate (0.1 g, 0.49 mmol) in 5 mL anhydrous tetrahydrofuran was added cyclohexylmethylamine (0.1 g). The solution was stirred at room temperature for 2 h when mercury (II) acetate (0.13 g, 0.49 mmol), sodium azide (0.095 g, 1.47 mmol) and triethylamine (0.148 g, 1.47 mmol) were added. The resulting suspension was stirred at room temperature for 12 hours, at which time the precipitate was filtered through Celite and the organics concentrated in vacuo. The crude residue was purified by column chromatography (gradient elution; 25% ethyl acetate/hexanes to 35%) to give 0.09 g of the title compound as a sticky foam. MS (ESI/NH3) m/z 325 (M+H)+ 1H NMR (δ, DMSO-d6) 0.8-0.95 (m, 2H), 1.05-1.3 (m, 3H), 1.5-1.8 (m, 7H), 3.05-3.12 (t, 2H), 7.05-7.17 (t, 1H), 7.58-7.65 (m, 2H), 7.90-7.95 (d, 1H).

reactant | 2,3 dichlorophenylisocyanate | 0.49 mmol, 0.1 g | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
reactant | cyclohexylmethylamine | 0.1 g | C1(CCCCC1)CN | C7H15N
reactant | sodium azide | 1.47 mmol, 0.095 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine | 1.47 mmol, 0.148 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | mercury (II) acetate | 0.49 mmol, 0.13 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | N-(cyclohexylmethyl)-1-(2,3-dichlorophenyl)-1H-tetraazol-5-amine | 0.09 g | C1(CCCCC1)CNC1=NN=NN1C1=C(C(=CC=C1)Cl)Cl | C14H17Cl2N5
